US07279580B2
3-Bromo-8-fluoroimidazo[1,2-α]pyridine-7-carboxylic acid methyl ester (0.10 g, 0.37 mmol) and 4,2′-difluoro-5′-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)biphenyl-2-carbonitrile (0.15 g, 0.44 mmol) were coupled following the procedure in Example 1 to afford 3-(2′-cyano-2,4′-difluorobiphenyl-5-yl)-8-fluoroimidazo[1,2-α]pyridine-7-carboxylic acid methyl ester (79 mg, 53%) as a white solid: δH (400 MHz, CDCl3) 4.00 (3H, s), 7.35 (1H, dd, J 7 and 7), 7.34-7.46 (2H, m), 7.53-7.66 (4H, m), 7.85 (1H, s), 8.24 (1H, d, J 7); m/z (ES+) 408 (100%, [MH]+).

reactant | 3-Bromo-8-fluoroimidazo[1,2-α]pyridine-7-carboxylic acid methyl ester | 0.37 mmol, 0.10 g | COC(=O)C1=C(C=2N(C=C1)C(=CN2)Br)F | C9H6BrFN2O2
reactant | 4,2′-difluoro-5′-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)biphenyl-2-carbonitrile | 0.44 mmol, 0.15 g | FC=1C=C(C(=CC1)C1=C(C=CC(=C1)B1OCC(CO1)(C)C)F)C#N | C18H16BF2NO2
product | 3-(2′-cyano-2,4′-difluorobiphenyl-5-yl)-8-fluoroimidazo[1,2-α]pyridine-7-carboxylic acid methyl ester | 79 mg, 53% | COC(=O)C1=C(C=2N(C=C1)C(=CN2)C=2C=CC(=C(C2)C2=C(C=C(C=C2)F)C#N)F)F | C22H12F3N3O2
